US09062092B2
Compound 29c. (R)-4-Isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one
A cooled (−20° C.) solution of tiglic acid (2.005 g, 20.031 mmol) in anhydrous tetrahydrofuran (50 mL) was sequentially treated with triethylamine (6.1 mL, 44.068 mmol) and dropwise pivaloyl chloride (2.7 mL, 22.034 mmol). After stirring at −20° C. for 30 min, lithium chloride (1.019 g, 24.037 mmol) and (R)-(+)-4-isopropyl-2-oxazolidinone (2.587 g, 20.031 mmol) were added. The reaction mixture was allowed to slowly warm to room temperature, stirred for 3 days and was then quenched with saturated ammonium chloride. The aqueous layer was extracted with ethyl acetate (2×). The organics were combined, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (3.307 g, 78%) as a colorless solid. 1H NMR (300 MHz, CDCl3) δ 0.92 (d, J=6.9 Hz, 3H), 0.94 (d, J=7.1 Hz, 3H), 1.83 (d, J=6.9 Hz, 3H), 1.93 (s, 3H), 2.38 (d of heptet, J=6.9, 4.2 Hz, 1H), 4.19 (dd, J=8.9, 4.6 Hz, 1H), 4.33 (app t, J=8.9 Hz, 1H), 4.49-4.58 (m, 1H), 6.23 (q, J=7.1 Hz, 1H).

reactant | tiglic acid | 20.031 mmol, 2.005 g | C(\C(\C)=C\C)(=O)O | C5H8O2
reactant | triethylamine | 44.068 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 22.034 mmol, 2.7 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | lithium chloride | 24.037 mmol, 1.019 g | [Cl-].[Li+]
reactant | (R)-(+)-4-isopropyl-2-oxazolidinone | 20.031 mmol, 2.587 g | C(C)(C)[C@H]1NC(OC1)=O | C6H11NO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (R)-4-Isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one | 3.307 g, 78% | C(C)(C)[C@H]1N(C(OC1)=O)C(\C(=C\C)\C)=O | C11H17NO3
